2100-12-07 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2100-12-6**] 08:00 PM
 BLOOD CULTURED - At [**2100-12-6**] 09:00 PM
 URINE CULTURE - At [**2100-12-6**] 09:00 PM
 NASAL SWAB - At [**2100-12-6**] 11:17 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-7**] 12:10 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-7**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.3
C (95.5
   HR: 60 (60 - 73) bpm
   BP: 100/68(74) {79/25(33) - 116/68(107)} mmHg
   RR: 23 (18 - 25) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Wgt (current): 91.5 kg (admission): 93.3 kg
   Height: 72 Inch
             Total In:
                                                                    315 mL
                                                                    390 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                     75 mL
                                                                    390 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                      0 mL
   Urine:
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     15 mL
                                                                    390 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.49/31/77.[**Numeric Identifier 143**]/20/1
   Physical Examination
   Gen: Elderly male, lying in bed in no distress.  Appears chronically
   ill.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI, MMM. Conjunctiva were pink,
   no pallor or cyanosis of the oral mucosa.
   CV: PMI not palpated. RR, normal S1, S2. [**3-11**] HSM at apex radiating to
   axilla. No thrills, lifts. No S3 or S4.  Could not assess JVP 2/2
   line.
   Chest: Resp were unlabored, no accessory muscle use.  Dry, fine
   crackles b/l at end expiration to 1/2 up posterior and lateral fields,
   no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   Ext: cool LE b/l, no snesation, multiple small ulcerations on toes b/l,
   with one ucler on L leg w/ eschar.  Hemosiderin colored [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/l.  Trace
   edema at ankles.  Cyanotic UE/s b/l to wrist. No central cyanosis.
   Skin: Stasis dermatitis.
   Neuro: A&Ox3.  CNs III - XII intact grossly.  Moves all extremities.
   Significant cogwheel rigidity b/l in upper extremities. No sensation to
   LT 1/2 up tibia b/l.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP Doppler +
   Left: Carotid 2+ Femoral 2+ DP Doppler +
   Labs / Radiology
   400 K/uL
   11.1 g/dL
   111 mg/dL
   1.0 mg/dL
   20 mEq/L
   4.1 mEq/L
   27 mg/dL
   102 mEq/L
   134 mEq/L
   33.8 %
   11.0 K/uL
        [image002.jpg]
                             [**2100-12-6**]  08:46 PM
                             [**2100-12-6**]  09:37 PM
                             [**2100-12-7**]  04:32 AM
   WBC
   11.8
   11.0
   Hct
   33.1
   33.8
   Plt
   408
   400
   Cr
   1.1
   1.0
   TCO2
   24
   Glucose
   101
   111
   Other labs: PT / PTT / INR:15.5/80.8/1.4, ALT / AST:13/17, Alk Phos / T
   Bili:130/0.7, Differential-Neuts:73.8 %, Lymph:18.4 %, Mono:5.7 %,
   Eos:1.8 %, Lactic Acid:1.3 mmol/L, LDH:187 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Chol 103
                                   TG 92[1]
                                   HDL 21
                                CHol/HDL 4.9
                                    LDL 64
   Vanco 32.3
   FEUREA
 33%.  BCx and UCx pending.  UA large blood, 21-50 WBCs,
   negative nitrites, moderate leuks.
   CXR -
   Increased interstitial markings likely representing mild edema.
   Evidence for small right effusion. Pacing wire in place. Limited study.
   Assessment and Plan
   78M admitted from OSH with MRSA sepsis transferred and pacemaker
   infection, transferred for epicardial pacemaker placement.
   .
   # CORONARIES: Unknown based on MR. [**Name13 (STitle) **] no hx of Hyperlipidemia Lipids
   at goal.  No symptoms of CP at this time.  Pt. appears as a vasculopath
   on exam.
   - Telemetry
   - Holding ASA [**2-6**] possible pacer placement
   - Holding BBK due to relative hypotension.
   - Pt on heparin gtt, PTT at goal
   .
   # PUMP: Has had hx of dilated cardiomyopathy w/ EF 44% of unclear
   origin (has had remote hx of EtOH abuse).  Also has hx of HTN, but no
   evidence of diastolic dysfunction on most recent echo [**11-30**], which has
   an improved EF of > 55% w/ no wall motion anl.  Currently, pt w/ O2
   sats > 98% on RA consistently.  CXR w/ si of volume overload.  No signs
   of volume overload from the right, but has fine crackles on exam.
   Likely mild volume overloaded given above.  Cr. 1.0, elevated from 0.8
   at OSH [**12-3**], pre-renal based on FEUREA.  Given no [**Last Name (LF) 4060**], [**First Name3 (LF) **]
   not diurese given relative hypotension.
   - Monitor BPs
   - Holding BBK, aldactone [**2-6**] relative hypotension.  Pt. not on ACEI at
   home.
   - Strict I/Os and daily wts.
   .
   # RHYTHM:  Hx Bradycardia, junctional rhythm. Had PPM which was removed
   on [**Month/Day (2) **] [**2-6**] MRSA sepsis/bacteremia.  Pus was noted in the pocket. Lat
   positive blood culture on [**2100-11-26**]. Patient is currently being venous
   paced through his IJ and which is firing almost 100% of the time.
   Underlying rhythm is afib w/ transition to aflutter Plan is for
   epicardial PPM with Dr. [**Last Name (STitle) 4052**] CT surgery.  Leads were not explanted.
   - NPO for now, will advance if not going to OR.
   - Heparing gtt PTT at goal.
   - V-Paced at 60 bpm, capturing nearly all beats
   - Leads in place on XR
   .
   #. MRSA Sepsis: On IV vancomycin, last positive blood cultures on
   [**2100-11-26**] per OSH records, but only had one set after that.  BCx here
   pending, will need surveillance BCx.   Afebrile, mild leukocytosis w/
   left shift but hemodynamically stable.  BCx on admission pending.
   Vanco level elevated.  Will adjust.
   - ID consult regarding timing of pacer placement.
   - IV vancomycin 1g QD for now.
   - trend fever curve and WBC
   - Surveillance BCx
   .
   #. Chronic afib: On coumadin at home, rhythm is now paced a-fib as
   above
   - heparin gtt
   .
   # Aortic stenosis: Per [**Last Name (LF) **], [**First Name3 (LF) 342**] of 1.4cm2.
   - careful with bolusing/fluids if needed
   .
   # ARF. Baseline Cr. 0.8.  On admission to ICU 1.1.  Etiology likely
   pre-renal, but can't r/o AIN.  Pt. also w/ neurogenic bladder, so
   unclear whether will have retention.   Pre-renal based on FEUREA.
   -          Bladder scan in AM to assess for retention.
   -          Renally dosed Vanco.
   .
   # BPH/urinary retention/UTI: Per OSH and patient, has been doing self
   catheterization 4x/day.  Here w/ foley w/ purulent discharge.
   Enterococcus sensitive to vancomycin on Cx.
   - f/u  UCx
   - Avodart not stocked, switched to Proscar
   - Continue vanco as above.
   .
   # HTN: Improving.  If continues to have SBP > 100, consider  restarting
   BBK.
   - Reassess in PM re: anti-hypertensive medications.
   .
   # Pulmonary embolus [**6-12**].  On heparin gtt.
   .
   #. Anemia: Hct 32 - 36, at OSH, reportedly at baseline.  Asx.  Pt now
   on heparin gtt.  HCT stable.
   - trend HCT daily
   - guac all stools
   - Fe studies consistent w/ Fe deficiency
   - Contact PCP [**Last Name (NamePattern4) **]: OP work up.
   .
   # GERD: Continue protonix.
   .
   # COPD: Not on any COPD meds per OSH records.  Fine crackles on exam,
   possibly suggesting fibrosis.  ABG 7.49/31/78 consistent w/ acute
   respiratory alkalosis, thus pt. likely not a CO2 retainer.   Likely [**2-6**]
   pulm edema, restrictive lung disease, sepsis.
   - Consider gentle diuresis if desaturates.
   - prn albuterol and ipratroprium
   ICU Care
   Nutrition: NPO after MN for PPM
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2100-12-6**] 08:00 PM
   20 Gauge - [**2100-12-6**] 09:46 PM
   Prophylaxis:
   DVT:  Heparin gtt
   Stress ulcer:  Protonix
   VAP:  NA
   Comments:
   Communication:  Patient, sister.:
   Code status: DNR / DNI
   Disposition:  Pending BCx, ID input and pacer schedule.

2100-12-08 05:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   78M admitted from OSH with MRSA sepsis transferred and pacemaker
   infection, transferred for epicardial pacemaker placement; currently
   externally paced.
   24 Hour Events:
   EP saw the patient and wanted ID to tell us how long antibiotics should
   be continued before they can place the ppm.  ID recommended 4 weeks
   of treatment with vancomycin and to have the OSH echo obtained
   for review by cards here to fully r/o the possibility of Lt heard
   endocarditis (which would require a 6 week course of tx).   Plan is
   tentatively scheduled for surgery on Thursday, however ID wanted to
   wait until Friday (as long as all of his cultures were no growth by
   then).  SBP in the 80's to 100's, Bblocker not restarted.  Patient had
   a UA which was 20-51 WBC and had mod leuk and bact present, UCx grew
   out yeast, ID wants a repeat UA and UCx.  Repeat UA showed >50 WBC mod
   leuk, mod bact, but given his chronic indwelling foley, no tx for now;
   will await UCx/ID recs.
 URINE CULTURE - At [**2100-12-7**] 10:10 PM
 BLOOD CULTURED - At [**2100-12-8**] 03:56 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-7**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-8**] 05:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (97
   HR: 60 (60 - 62) bpm
   BP: 90/45(53) {83/45(53) - 125/79(90)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
   Wgt (current): 91.5 kg (admission): 93.3 kg
   Height: 72 Inch
             Total In:
                                                                  1,302 mL
                                                                    157 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                    982 mL
                                                                    157 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    300 mL
   Urine:
                                                                  1,125 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    177 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///22/
   Physical Examination
   Gen: Elderly male, lying in bed in no distress.  Appears chronically
   ill.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI, MMM. Conjunctiva were pink,
   no pallor or cyanosis of the oral mucosa.
   CV: PMI not palpated. RR, normal S1, S2. [**3-11**] HSM at apex radiating to
   axilla. No thrills, lifts. No S3 or S4.  Could not assess JVP 2/2
   line.
   Chest: Resp were unlabored, no accessory muscle use.  Dry, fine
   crackles b/l at end expiration to 1/2 up posterior and lateral fields,
   no wheezes or rhonchi.
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation.
   Ext: cool LE b/l, no snesation, multiple small ulcerations on toes b/l,
   with one ucler on L leg w/ eschar.  Hemosiderin colored [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/l.  Trace
   edema at ankles.  Cyanotic UE/s b/l to wrist. No central cyanosis.
   Skin: Stasis dermatitis.
   Neuro: A&Ox3.  CNs III - XII intact grossly.  Moves all extremities.
   Significant cogwheel rigidity b/l in upper extremities. No sensation to
   LT 1/2 up tibia b/l.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ DP Doppler +
   Left: Carotid 2+ Femoral 2+ DP Doppler +
   Labs / Radiology
   418 K/uL
   10.6 g/dL
   93 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   28 mg/dL
   104 mEq/L
   135 mEq/L
   31.4 %
   11.4 K/uL
        [image002.jpg]
                             [**2100-12-6**]  08:46 PM
                             [**2100-12-6**]  09:37 PM
                             [**2100-12-7**]  04:32 AM
                             [**2100-12-7**]  12:00 PM
                             [**2100-12-7**]  06:00 PM
                             [**2100-12-8**]  03:51 AM
   WBC
   11.8
   11.0
   11.4
   Hct
   33.1
   33.8
   31.4
   Plt
   [**Telephone/Fax (3) 4074**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   24
   Glucose
   101
   111
   122
   136
   93
   Other labs: PT / PTT / INR:15.4/79.8/1.4, ALT / AST:13/17, Alk Phos / T
   Bili:130/0.7, Differential-Neuts:73.8 %, Lymph:18.4 %, Mono:5.7 %,
   Eos:1.8 %, Lactic Acid:1.3 mmol/L, LDH:187 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   78M admitted from OSH with MRSA sepsis transferred and pacemaker
   infection, transferred for epicardial pacemaker placement.
   .
   # CORONARIES: Unknown based on MR. [**Name13 (STitle) **] no hx of Hyperlipidemia Lipids
   at goal.  No symptoms of CP at this time.  Pt. appears as a vasculopath
   on exam.
   - Telemetry
   - Holding ASA [**2-6**] possible pacer placement
   - Holding BBK due to relative hypotension.
   - Pt on heparin gtt, PTT at goal
   .
   # PUMP: Has had hx of dilated cardiomyopathy w/ EF 44% of unclear
   origin (has had remote hx of EtOH abuse).  Also has hx of HTN, but no
   evidence of diastolic dysfunction on most recent echo [**11-30**], which has
   an improved EF of > 55% w/ no wall motion anl.  Currently, pt w/ O2
   sats > 98% on RA consistently.  CXR w/ si of volume overload.  No signs
   of volume overload from the right, but has fine crackles on exam.
   Likely mild volume overloaded given above.  Cr. 1.0, elevated from 0.8
   at OSH [**12-3**], pre-renal based on FEUREA.  Given no [**Last Name (LF) 4060**], [**First Name3 (LF) **]
   not diurese given relative hypotension.
   - Monitor BPs
   - Holding BBK, aldactone [**2-6**] relative hypotension.  Pt. not on ACEI at
   home.
   - Strict I/Os and daily wts.
   .
   # RHYTHM:  Hx Bradycardia, junctional rhythm. Had PPM which was removed
   on [**Month/Day (2) **] [**2-6**] MRSA sepsis/bacteremia.  Pus was noted in the pocket. Lat
   positive blood culture on [**2100-11-26**]. Patient is currently being venous
   paced through his IJ and which is firing almost 100% of the time.
   Underlying rhythm is afib w/ transition to aflutter Plan is for
   epicardial PPM with Dr. [**Last Name (STitle) 4052**] CT surgery.  Leads were not explanted.
   - NPO for now, will advance if not going to OR.
   - Heparing gtt PTT at goal.
   - V-Paced at 60 bpm, capturing nearly all beats
   - Leads in place on XR
   .
   #. MRSA Sepsis: On IV vancomycin, last positive blood cultures on
   [**2100-11-26**] per OSH records, but only had one set after that.  BCx here
   pending, will need surveillance BCx.   Afebrile, mild leukocytosis w/
   left shift but hemodynamically stable.  BCx on admission pending.
   Vanco level elevated.  Will adjust.
   - ID consult regarding timing of pacer placement.
   - IV vancomycin 1g QD for now.
   - trend fever curve and WBC
   - Surveillance BCx
   .
   #. Chronic afib: On coumadin at home, rhythm is now paced a-fib as
   above
   - heparin gtt
   .
   # Aortic stenosis: Per [**Last Name (LF) **], [**First Name3 (LF) 342**] of 1.4cm2.
   - careful with bolusing/fluids if needed
   .
   # ARF. Baseline Cr. 0.8.  On admission to ICU 1.1.  Etiology likely
   pre-renal, but can't r/o AIN.  Pt. also w/ neurogenic bladder, so
   unclear whether will have retention.   Pre-renal based on FEUREA.
   -          Bladder scan in AM to assess for retention.
   -          Renally dosed Vanco.
   .
   # BPH/urinary retention/UTI: Per OSH and patient, has been doing self
   catheterization 4x/day.  Here w/ foley w/ purulent discharge.
   Enterococcus sensitive to vancomycin on Cx.
   - f/u  UCx
   - Avodart not stocked, switched to Proscar
   - Continue vanco as above.
   .
   # HTN: Improving.  If continues to have SBP > 100, consider  restarting
   BBK.
   - Reassess in PM re: anti-hypertensive medications.
   .
   # Pulmonary embolus [**6-12**].  On heparin gtt.
   .
   #. Anemia: Hct 32 - 36, at OSH, reportedly at baseline.  Asx.  Pt now
   on heparin gtt.  HCT stable.
   - trend HCT daily
   - guac all stools
   - Fe studies consistent w/ Fe deficiency
   - Contact PCP [**Last Name (NamePattern4) **]: OP work up.
   .
   # GERD: Continue protonix.
   .
   # COPD: Not on any COPD meds per OSH records.  Fine crackles on exam,
   possibly suggesting fibrosis.  ABG 7.49/31/78 consistent w/ acute
   respiratory alkalosis, thus pt. likely not a CO2 retainer.   Likely [**2-6**]
   pulm edema, restrictive lung disease, sepsis.
   - Consider gentle diuresis if desaturates.
   - prn albuterol and ipratroprium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2100-12-6**] 08:00 PM
   20 Gauge - [**2100-12-6**] 09:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2100-12-09 05:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   NPO [**12-10**] p midnight for epicardial pacer with intraoperative TEE to
   look for vegetation.  Pt reported to have low BPs overnight, in the
   80s-90s but mentated well, w/ good urine output.  This AM he denies any
   discomfort, CP, SOB, palpitations, fevers, chills or pain.  Reports
   concern over diabetes, given elevated BGs.  This was discussed with
   patient.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-8**] 08:00 AM
   Infusions:
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-12-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-9**] 05:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 60 (60 - 62) bpm
   BP: 99/49(60) {83/46(56) - 111/60(107)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 95%
   Heart rhythm: V Paced
   Wgt (current): 91.5 kg (admission): 92.7 kg
   Height: 72 Inch
             Total In:
                                                                  1,136 mL
                                                                    152 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
                                                                    836 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,150 mL
                                                                      0 mL
   Urine:
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -14 mL
                                                                    152 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 95%
   ABG: ////
   Physical Examination
   Gen: Elderly male, lying in bed in no distress.  amiable
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI, MMM. Conjunctiva  pink, no
   pallor or cyanosis.
   CV: PMI not palpated. RR, normal S1, S2. [**3-11**] HSM at apex radiating to
   axilla. No thrills, lifts. No S3 or S4.  Could not assess JVP 2/2
   line.
   Chest: Resp were unlabored, no accessory muscle use.  Dry, fine
   crackles b/l at end expiration to 1/2 up posterior and lateral fields,
   no wheezes or rhonchi, unchanged from prior.
   Abd: Soft, NTND. No HSM or tenderness
   Ext: warm LE b/l, no sensation, multiple small ulcerations on toes b/l,
   with one ucler on L leg w/ eschar.  Hemosiderin colored [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/l.  Trace
   edema at ankles.  Cyanotic UE/s b/l to wrist. No central cyanosis.
   Skin: Stasis dermatitis.
   Neuro: A&Ox3.  CNs III - XII intact grossly.  Moves all extremities.
   Significant cogwheel rigidity b/l in upper extremities. No sensation to
   LT 1/2 up tibia b/l.
   .
   Labs / Radiology
   450 K/uL
   10.8 g/dL
   114
   1.0 mg/dL
   23 mEq/L
   4.0
   27 mg/dL
   105 mEq/L
   136 mEq/L
   32.4
   9.8
        [image002.jpg]
                             [**2100-12-6**]  08:46 PM
                             [**2100-12-6**]  09:37 PM
                             [**2100-12-7**]  04:32 AM
                             [**2100-12-7**]  12:00 PM
                             [**2100-12-7**]  06:00 PM
                             [**2100-12-8**]  03:51 AM
                             [**2100-12-8**]  08:00 AM
                             [**2100-12-8**]  12:00 PM
                             [**2100-12-8**]  05:00 PM
   WBC
   11.8
   11.0
   11.4
   Hct
   33.1
   33.8
   31.4
   Plt
   [**Telephone/Fax (3) 4074**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   24
   Glucose
   101
   111
   122
   136
   93
   131
   189
   114
   Other labs: ALT / AST:13/17, Alk Phos / T Bili:130/0.7,
   Differential-Neuts:73.8 %, Lymph:18.4 %, Mono:5.7 %, Eos:1.8 %, Lactic
   Acid:1.3 mmol/L, LDH:187 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:3.7
   mg/dL
   V trough
 24.5
   BCx
 pending to date
   UCx
 yeast at admission, repeat negative.
   PTT
 99.3 this am.
   CXR -
   Since [**2100-12-6**], multifocal mixed opacities increased, more likely due
   to
   worsening of pulmonary edema, less likely multifocal infection. Hilar
   contours are hazy and enlarged and the azygos is more distended.
   Minimal bilateral pleural effusions are unchanged. Pacing wire is in
   unchanged position. There is no other overall change
   Assessment and Plan
   78M admitted from OSH with MRSA sepsis transferred and pacemaker
   infection, transferred for epicardial pacemaker placement.
   .
   # CORONARIES: Unknown based on MR. [**Name13 (STitle) **] no hx of Hyperlipidemia Lipids
   at goal.  No symptoms of CP at this time.  Pt. appears as a vasculopath
   on exam.
   - continue telemetry
   - Holding ASA [**2-6**] possible pacer placement
   - Holding BBK due to relative hypotension.
   - Pt on heparin gtt, PTT supratherapeutic, will decrease dose.
   .
   # PUMP: Has had hx of dilated cardiomyopathy w/ EF 44% of unclear
   origin (has had remote hx of EtOH abuse).  Also has hx of HTN, but no
   evidence of diastolic dysfunction on most recent echo [**11-30**], which has
   an improved EF of > 55% w/ no wall motion anl.  Currently, pt w/ O2
   sats > 98% on RA consistently.  Pre-renal, Cr 1.0 stable, baseline
   0.8.  Given no desaturation, will not diurese given relative
   hypotension.
   - Monitor BPs
   - Holding BBK, aldactone [**2-6**] relative hypotension.  Pt. not on ACEI at
   home.  If SBP > 100 consistently will restart.
   - Strict I/Os and daily wts.
   .
   # RHYTHM:  Hx Bradycardia, junctional rhythm. Had PPM which was removed
   on [**Month/Day (2) **] [**2-6**] MRSA sepsis/bacteremia.   Last positive blood culture on
   [**2100-11-26**]. Patient is currently being venous paced through his IJ and
   which is firing almost 100% of the time.  Underlying rhythm is afib w/
   transition to aflutter Plan is for epicardial PPM with Dr. [**Last Name (STitle) 4052**] CT
   surgery.  Leads were not explanted.
   - Heparing gtt PTT
   - V-Paced at 60 bpm, capturing nearly all beats
   - Leads in place on XR
   - Likely pacer placement on Friday, NPO after MN.
   .
   #. MRSA Sepsis: On IV vancomycin, last positive blood cultures on
   [**2100-11-26**] per OSH records, but only had one set after that.  BCx here
   pending to date.  Afebrile, mild leukocytosis w/ left shift, relative
   hypotension, but pt. asymptomatic.    Vanco level elevated. Goal
   15-20.   Will have intraoperative TEE on Friday to eval for IE which
   will guide length of therapy.
   - ID recs appreciated.
   - IV vancomycin 750mg QQ
   - trend fever curve and WBC
   - Surveillance BCx
   .
   #. Chronic afib: On coumadin at home, rhythm is now paced a-fib as
   above
   - heparin gtt
   .
   # Aortic stenosis: Per [**Last Name (LF) **], [**First Name3 (LF) 342**] of 1.4cm2.
   - careful with bolusing/fluids if becomes hypotensive, SBP < 85.
   .
   # ARF. Baseline Cr. 0.8., now 1.0   Etiology likely pre-renal, but
   can't r/o AIN.
   -          f/u bladder scan in to assess for retention.
   -          Renally dosed Vanco.
   .
   # Positive UA
 repeat now negative.  Continue intermittent
   catheterization.
   .
   # BPH/urinary retention/UA: Per OSH and patient, has been doing self
   catheterization 4x/day.  Foley out.  UCx repeat negative.
   -          Avodart not stocked, switched to Proscar
   -          Continue self catheterization.
   .
   # HTN: Currently hypotensive.  If SBPs > 100 consistently,  will
   consider  restarting BBK in AM..
   - Reassess in AM re: anti-hypertensive medications.
   .
   # Pulmonary embolus [**6-12**].  On heparin gtt.
   .
   #. Anemia: Hct 32 - 36, at OSH, reportedly at baseline.  Asx.  Pt now
   on heparin gtt.  HCT stable, 32.  Fe studies consistent w/ Fe
   deficiency.
   - trend HCT daily
   - guiac all stools
   - Contact PCP [**Last Name (NamePattern4) **]: OP work up prior to d/c.
   .
   # GERD: Continue protonix.
   .
   # COPD: Not on any COPD meds per OSH records.  Fine crackles on exam,
   possibly suggesting fibrosis.  ABG on admission 7.49/31/78 consistent
   w/ acute respiratory alkalosis, thus pt. likely not a CO2 retainer.
   Likely [**2-6**] pulm edema, restrictive lung disease, sepsis.  Desaturations
   likely [**2-6**] poor periphearal perfusion, as improve w/ placement on
   forehead..
   - Consider gentle diuresis if desaturates.
   - prn albuterol and ipratroprium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2100-12-6**] 08:00 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:  not indicated at this time.
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:

2100-12-10 05:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  Pacemaker site infection.
   24 Hour Events:
   ID recommended to decrease vanco to 750mg QD.  BCx all still pending.
   Pt. is going for Pacer replacement on Friday ~ 1pm.  Will need his
   heparin d/ced, we'll need to touch base w/ EP re: when.  NPO
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2100-12-9**] 02:00 PM
   Infusions:
   Heparin Sodium - 1,300 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2100-12-9**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2100-12-10**] 05:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.1
C (96.9
   HR: 60 (60 - 60) bpm
   BP: 92/58(66) {85/45(55) - 114/73(89)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Paced
   Wgt (current): 91.5 kg (admission): 92.7 kg
   Height: 72 Inch
             Total In:
                                                                  1,246 mL
                                                                    127 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    886 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    600 mL
   Urine:
                                                                    900 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    346 mL
                                                                   -473 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   Gen: Elderly male, lying in bed in no distress.  amiable
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI, MMM. Conjunctiva  pink, no
   pallor or cyanosis.
   CV: PMI not palpated. RR, normal S1, S2. [**3-11**] HSM at apex radiating to
   axilla. No thrills, lifts. No S3 or S4.  Could not assess JVP 2/2
   line.
   Chest: Resp were unlabored, no accessory muscle use.  Dry, fine
   crackles b/l at end expiration to 1/2 up posterior and lateral fields,
   no wheezes or rhonchi, unchanged from prior.
   Abd: Soft, NTND. No HSM or tenderness
   Ext: warm LE b/l, no sensation, multiple small ulcerations on toes b/l,
   with one ucler on L leg w/ eschar.  Hemosiderin colored [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **]/l.  Trace
   edema at ankles.  Cyanotic UE/s b/l to wrist. No central cyanosis.
   Skin: Stasis dermatitis.
   Neuro: A&Ox3.  CNs III - XII intact grossly.  Moves all extremities.
   Significant cogwheel rigidity b/l in upper extremities. No sensation to
   LT 1/2 up tibia b/l.
   Labs / Radiology
   396 K/uL
   10.3 g/dL
   92 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.9 mEq/L
   22 mg/dL
   104 mEq/L
   134 mEq/L
   31.0 %
   10.5 K/uL
        [image002.jpg]
                             [**2100-12-6**]  09:37 PM
                             [**2100-12-7**]  04:32 AM
                             [**2100-12-7**]  12:00 PM
                             [**2100-12-7**]  06:00 PM
                             [**2100-12-8**]  03:51 AM
                             [**2100-12-8**]  08:00 AM
                             [**2100-12-8**]  12:00 PM
                             [**2100-12-8**]  05:00 PM
                             [**2100-12-9**]  05:58 AM
                             [**2100-12-10**]  01:52 AM
   WBC
   11.0
   11.4
   9.8
   10.5
   Hct
   33.8
   31.4
   32.4
   31.0
   Plt
   400
   418
   450
   396
   Cr
   1.0
   1.0
   1.0
   1.0
   TCO2
   24
   Glucose
   111
   122
   136
   93
   131
   189
   114
   94
   92
   Other labs: PT / PTT / INR:16.6/119.8/1.5, ALT / AST:13/17, Alk Phos /
   T Bili:130/0.7, Differential-Neuts:73.8 %, Lymph:18.4 %, Mono:5.7 %,
   Eos:1.8 %, Lactic Acid:1.3 mmol/L, LDH:187 IU/L, Ca++:8.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   78M admitted from OSH with MRSA sepsis transferred and pacemaker
   infection, transferred for epicardial pacemaker placement.
   .
   # CORONARIES: Unknown based on MR. [**Name13 (STitle) **] no hx of Hyperlipidemia Lipids
   at goal.  No symptoms of CP at this time.  Pt. appears as a vasculopath
   on exam.
   - continue telemetry
   - Holding ASA [**2-6**] possible pacer placement
   - Holding BBK due to relative hypotension.
   - Pt on heparin gtt, PTT supratherapeutic, will decrease dose.
   .
   # PUMP: Has had hx of dilated cardiomyopathy w/ EF 44% of unclear
   origin (has had remote hx of EtOH abuse).  Also has hx of HTN, but no
   evidence of diastolic dysfunction on most recent echo [**11-30**], which has
   an improved EF of > 55% w/ no wall motion anl.  Currently, pt w/ O2
   sats > 98% on RA consistently.  Pre-renal, Cr 1.0 stable, baseline
   0.8.  Given no desaturation, will not diurese given relative
   hypotension.
   - Monitor BPs
   - Holding BBK, aldactone [**2-6**] relative hypotension.  Pt. not on ACEI at
   home.  If SBP > 100 consistently will restart.
   - Strict I/Os and daily wts.
   .
   # RHYTHM:  Hx Bradycardia, junctional rhythm. Had PPM which was removed
   on [**Month/Day (2) **] [**2-6**] MRSA sepsis/bacteremia.   Last positive blood culture on
   [**2100-11-26**]. Patient is currently being venous paced through his IJ and
   which is firing almost 100% of the time.  Underlying rhythm is afib w/
   transition to aflutter Plan is for epicardial PPM with Dr. [**Last Name (STitle) 4052**] CT
   surgery.  Leads were not explanted.
   - Heparing gtt PTT
   - V-Paced at 60 bpm, capturing nearly all beats
   - Leads in place on XR
   - Likely pacer placement on Friday, NPO after MN.
   .
   #. MRSA Sepsis: On IV vancomycin, last positive blood cultures on
   [**2100-11-26**] per OSH records, but only had one set after that.  BCx here
   pending to date.  Afebrile, mild leukocytosis w/ left shift, relative
   hypotension, but pt. asymptomatic.    Vanco level elevated. Goal
   15-20.   Will have intraoperative TEE on Friday to eval for IE which
   will guide length of therapy.
   - ID recs appreciated.
   - IV vancomycin 750mg QQ
   - trend fever curve and WBC
   - Surveillance BCx
   .
   #. Chronic afib: On coumadin at home, rhythm is now paced a-fib as
   above
   - heparin gtt
   .
   # Aortic stenosis: Per [**Last Name (LF) **], [**First Name3 (LF) 342**] of 1.4cm2.
   - careful with bolusing/fluids if becomes hypotensive, SBP < 85.
   .
   # ARF. Baseline Cr. 0.8., now 1.0   Etiology likely pre-renal, but
   can't r/o AIN.
   -          f/u bladder scan in to assess for retention.
   -          Renally dosed Vanco.
   .
   # Positive UA
 repeat now negative.  Continue intermittent
   catheterization.
   .
   # BPH/urinary retention/UA: Per OSH and patient, has been doing self
   catheterization 4x/day.  Foley out.  UCx repeat negative.
   -          Avodart not stocked, switched to Proscar
   -          Continue self catheterization.
   .
   # HTN: Currently hypotensive.  If SBPs > 100 consistently,  will
   consider  restarting BBK in AM..
   - Reassess in AM re: anti-hypertensive medications.
   .
   # Pulmonary embolus [**6-12**].  On heparin gtt.
   .
   #. Anemia: Hct 32 - 36, at OSH, reportedly at baseline.  Asx.  Pt now
   on heparin gtt.  HCT stable, 32.  Fe studies consistent w/ Fe
   deficiency.
   - trend HCT daily
   - guiac all stools
   - Contact PCP [**Last Name (NamePattern4) **]: OP work up prior to d/c.
   .
   # GERD: Continue protonix.
   .
   # COPD: Not on any COPD meds per OSH records.  Fine crackles on exam,
   possibly suggesting fibrosis.  ABG on admission 7.49/31/78 consistent
   w/ acute respiratory alkalosis, thus pt. likely not a CO2 retainer.
   Likely [**2-6**] pulm edema, restrictive lung disease, sepsis.  Desaturations
   likely [**2-6**] poor periphearal perfusion, as improve w/ placement on
   forehead..
   - Consider gentle diuresis if desaturates.
   - prn albuterol and ipratroprium
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2100-12-6**] 08:00 PM
   Prophylaxis:
   DVT:  heparin gtt
   Stress ulcer:  not indicated at this time.
   VAP:  NA
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: